US05714501
(S)-2-Benzyloxycarbonylamino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidin-1-yl]propionic acid
To a solution of methyl (S)-2-benzyloxycarbonylamino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidin-1-yl]propionate(2 g, 3.9 mmol) in 30 ml ethanol was added 10 ml of 1N NaOH aqueous solution. The mixture was then stirred at room temperature for 3 hours. After removing most ethanol under reduced pressure, the remaining mixture was diluted with ice-water and neutralized with acetic acid. The mixture was then extracted with chloroform (2×30 ml). The combined chloroform extract was washed with saline and dried over Na2SO4. After evaporating to dryness, the solid residue was recrystallized from ethanol to afford the title compound as a white crystalline. Yield:1.77 g (91%)

reactant | methyl (S)-2-benzyloxycarbonylamino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidin-1-yl]propionate | 3.9 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C32H32N2O4
reactant | NaOH | 1N, 10 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (S)-2-Benzyloxycarbonylamino-3-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidin-1-yl]propionic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C31H30N2O4
